* Subcircuit SN7406
.subckt SN7406 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ 
.title kicad schematic
.include SN7406a.sub
xu2 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad14_ net-_u1-pad7_ SN7406a
xu3 net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad14_ net-_u1-pad7_ SN7406a
xu4 net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad14_ net-_u1-pad7_ SN7406a
xu7 net-_u1-pad13_ net-_u1-pad12_ net-_u1-pad14_ net-_u1-pad7_ SN7406a
xu6 net-_u1-pad11_ net-_u1-pad10_ net-_u1-pad14_ net-_u1-pad7_ SN7406a
xu5 net-_u1-pad9_ net-_u1-pad8_ net-_u1-pad14_ net-_u1-pad7_ SN7406a
* Control Statements

.ends SN7406