* Subcircuit SN74167
.subckt SN74167 unconnected-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ unconnected-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ unconnected-_u1-pad16_ 
.title kicad schematic
.include 4_and.sub
.include 3_and.sub
x2 net-_u7-pad5_ net-_u5-pad3_ net-_u1-pad2_ net-_u12-pad1_ 3_and
x1 net-_u20-pad6_ net-_u5-pad3_ net-_u1-pad3_ net-_u12-pad2_ 3_and
x4 net-_u10-pad5_ net-_u7-pad6_ net-_u5-pad3_ net-_u1-pad15_ net-_u13-pad1_ 4_and
x5 net-_u23-pad6_ net-_u15-pad2_ net-_u5-pad3_ net-_u1-pad14_ net-_u14-pad1_ 4_and
* u10 net-_u10-pad1_ net-_u1-pad9_ unconnected-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ unconnected-_u10-pad6_ d_tff
* u9 net-_u15-pad1_ net-_u7-pad5_ net-_u10-pad1_ d_and
* u11 net-_u1-pad13_ net-_u1-pad4_ net-_u10-pad4_ d_or
* u8 net-_u1-pad13_ net-_u1-pad4_ net-_u7-pad4_ d_or
* u2 net-_u1-pad11_ net-_u15-pad1_ d_inverter
* u5 net-_u3-pad2_ net-_u4-pad2_ net-_u5-pad3_ d_and
* u7 net-_u6-pad3_ net-_u1-pad9_ unconnected-_u7-pad3_ net-_u7-pad4_ net-_u7-pad5_ net-_u7-pad6_ d_tff
* u6 net-_u15-pad1_ net-_u20-pad6_ net-_u6-pad3_ d_and
* u3 net-_u1-pad9_ net-_u3-pad2_ d_inverter
* u4 net-_u1-pad10_ net-_u4-pad2_ d_inverter
* u15 net-_u15-pad1_ net-_u15-pad2_ net-_u15-pad3_ d_and
x3 net-_u15-pad1_ net-_u10-pad5_ net-_u7-pad5_ net-_u18-pad1_ 3_and
* u18 net-_u18-pad1_ net-_u15-pad3_ net-_u18-pad3_ d_or
* u20 net-_u18-pad3_ net-_u1-pad9_ net-_u1-pad4_ net-_u1-pad13_ net-_u15-pad2_ net-_u20-pad6_ d_tff
* u22 net-_u15-pad1_ net-_u15-pad2_ net-_u22-pad3_ d_and
* u23 net-_u22-pad3_ net-_u1-pad9_ net-_u1-pad4_ net-_u1-pad13_ net-_u23-pad5_ net-_u23-pad6_ d_tff
x6 net-_u15-pad1_ net-_u15-pad2_ net-_u23-pad5_ net-_u1-pad7_ 3_and
* u19 net-_u16-pad2_ net-_u17-pad2_ net-_u19-pad3_ d_nor
* u21 net-_u19-pad3_ net-_u1-pad6_ d_inverter
* u17 net-_u1-pad12_ net-_u17-pad2_ d_inverter
* u16 net-_u1-pad5_ net-_u16-pad2_ d_inverter
* u14 net-_u14-pad1_ net-_u13-pad3_ net-_u1-pad5_ d_nor
* u13 net-_u13-pad1_ net-_u12-pad3_ net-_u13-pad3_ d_nor
* u12 net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ d_nor
a1 net-_u10-pad1_ net-_u1-pad9_ unconnected-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ unconnected-_u10-pad6_ u10
a2 [net-_u15-pad1_ net-_u7-pad5_ ] net-_u10-pad1_ u9
a3 [net-_u1-pad13_ net-_u1-pad4_ ] net-_u10-pad4_ u11
a4 [net-_u1-pad13_ net-_u1-pad4_ ] net-_u7-pad4_ u8
a5 net-_u1-pad11_ net-_u15-pad1_ u2
a6 [net-_u3-pad2_ net-_u4-pad2_ ] net-_u5-pad3_ u5
a7 net-_u6-pad3_ net-_u1-pad9_ unconnected-_u7-pad3_ net-_u7-pad4_ net-_u7-pad5_ net-_u7-pad6_ u7
a8 [net-_u15-pad1_ net-_u20-pad6_ ] net-_u6-pad3_ u6
a9 net-_u1-pad9_ net-_u3-pad2_ u3
a10 net-_u1-pad10_ net-_u4-pad2_ u4
a11 [net-_u15-pad1_ net-_u15-pad2_ ] net-_u15-pad3_ u15
a12 [net-_u18-pad1_ net-_u15-pad3_ ] net-_u18-pad3_ u18
a13 net-_u18-pad3_ net-_u1-pad9_ net-_u1-pad4_ net-_u1-pad13_ net-_u15-pad2_ net-_u20-pad6_ u20
a14 [net-_u15-pad1_ net-_u15-pad2_ ] net-_u22-pad3_ u22
a15 net-_u22-pad3_ net-_u1-pad9_ net-_u1-pad4_ net-_u1-pad13_ net-_u23-pad5_ net-_u23-pad6_ u23
a16 [net-_u16-pad2_ net-_u17-pad2_ ] net-_u19-pad3_ u19
a17 net-_u19-pad3_ net-_u1-pad6_ u21
a18 net-_u1-pad12_ net-_u17-pad2_ u17
a19 net-_u1-pad5_ net-_u16-pad2_ u16
a20 [net-_u14-pad1_ net-_u13-pad3_ ] net-_u1-pad5_ u14
a21 [net-_u13-pad1_ net-_u12-pad3_ ] net-_u13-pad3_ u13
a22 [net-_u12-pad1_ net-_u12-pad2_ ] net-_u12-pad3_ u12
* Schematic Name:                             d_tff, Ngspice Name: d_tff
.model u10 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u9 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u11 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u8 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u5 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_tff, Ngspice Name: d_tff
.model u7 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u15 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u18 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_tff, Ngspice Name: d_tff
.model u20 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u22 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_tff, Ngspice Name: d_tff
.model u23 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u19 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u21 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u14 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u13 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u12 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends SN74167