.title kicad schematic

.include NPN.lib
.include DI_S2M.lib
r3 net-_q3-pad2_ net-_d1-pad1_ 1k
d2 net-_d2-pad1_ net-_d2-pad2_ DI_S2M
r4 net-_r1-pad1_ net-_d2-pad1_ 1.4k
q1 net-_q1-pad1_ net-_q1-pad2_ net-_d1-pad2_ Q2N2222
r1 net-_r1-pad1_ net-_q1-pad2_ 6k
* u1 net-_d1-pad2_ net-_q5-pad1_ net-_r1-pad1_ net-_d1-pad1_ port
d1 net-_d1-pad1_ net-_d1-pad2_ DI_S2M
q3 net-_q3-pad1_ net-_q3-pad2_ net-_d1-pad1_ Q2N2222
r5 net-_d2-pad1_ net-_q3-pad1_ 2k
q2 net-_d2-pad2_ net-_q1-pad1_ net-_q2-pad3_ Q2N2222
r2 net-_q2-pad3_ net-_q3-pad2_ 100
r6 net-_r1-pad1_ net-_q4-pad1_ 1.6k
q5 net-_q5-pad1_ net-_q4-pad1_ net-_d1-pad1_ Q2N2222
q4 net-_q4-pad1_ net-_q3-pad1_ net-_d1-pad1_ Q2N2222
.tran 1e-06 10e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
